US08791129B2
2-[2-Amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl (S)-2-aminopropionate dihydrochloride (“A76”)
911 μl of 4N HCl in dioxane are added to 220 mg of 2-[2-amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl (S)-2-tert-butoxycarbonylaminopropionate in 4 ml of dichloromethane with ice-cooling. The mixture is subsequently stirred at 25° C. for a further 1 h, the precipitate is filtered off with suction and washed with 4 ml of dichloromethane. The residue is recrystallised from ethanol.

reactant | HCl | 4N, 911 μl | Cl | ClH
reactant | 2-[2-amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl (S)-2-tert-butoxycarbonylaminopropionate | 220 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC1=C(C=C(C(=C1)F)F)C=1C=C2C(=NC(=NC2=CC1)N)C(=O)N1CC2=CC=CC=C2C1)C | C32H31F2N5O5
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 2-[2-Amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl (S)-2-aminopropionate dihydrochloride | Cl.Cl.N[C@H](C(=O)OCC1=C(C=C(C(=C1)F)F)C=1C=C2C(=NC(=NC2=CC1)N)C(=O)N1CC2=CC=CC=C2C1)C | InChI=1S/C27H23F2N5O3.2ClH/c1-14(30)26(36)37-13-18-9-21(28)22(29)10-19(18)15-6-7-23-20(8-15)24(33-27(31)32-23)25(35)34-11-16-4-2-3-5-17(16)12-34;;/h2-10,14H,11-13,30H2,1H3,(H2,31,32,33);2*1H/t14-;;/m0../s1
